US05340801
Step 2: Preparation of benzyl 2-aminobenzoate
A mixture of isatoic anhydride (8.54 g), benzyl alcohol (6.0 g), 4-dimethylaminopyridine (6.7 g), dimethylformamide (17 ml), triethylamine (5.28 g), and methylene chloride (160 ml) is refluxed overnight, diluted with an equal volume of ethyl acetate and washed with water, brine, and water. The organic solution is dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography eluting with 30% ethyl acetate in hexane to give the desired product.

reactant | isatoic anhydride | 8.54 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | benzyl alcohol | 6.0 g | C(C1=CC=CC=C1)O | C7H8O
reactant | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 5.28 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 6.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2-aminobenzoate | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C14H13NO2
